US04520134
Twenty-five g (0.18 moles) of p-nitrophenol and 58 g (1 mole) of acetone were mixed together and catalytically reduced using hydrogen and platinum oxide until hydrogen was no longer taken up. The work-up followed the procedure of Majors (J. Amer. Chem. Soc. 31:1901-1908 (1931), giving 11 g (41%) of N-isopropyl-p-hydroxyaniline, m.p. 143° C.

reactant | p-nitrophenol | 0.18 moles | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | acetone | 1 mole, 58 g | CC(=O)C | C3H6O
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
product | N-isopropyl-p-hydroxyaniline | 11 g, 41% | C(C)(C)NC1=CC=C(C=C1)O | C9H13NO
